US05300506
To a solution of 5-aminoindole (10.0 g, 76 mmol) and triethylamine (7.67 g, 76 mmol) in acetonitrile (400 mL) at 0° C. was added dropwise a solution of carboxybenzyloxychloride (12.93 g, 75.8 mmol) in acetonitrile (80 mL). After the addition was complete the reaction was allowed to warm to 23° C. and stand for 60 h. The solvent was removed in vacuo and the residue treated with water containing Na2CO3 (76 mmol). The mixture was extracted with four portions of CH2Cl2. The combined organic extracts were washed with a saturated NaCl solution, dried with K2CO3, filtered, and concentrated in vacuo. SiIica gel chromatography (4:1 to 1:1 hexane:ethyl acetate gradient) of the concentrate afforded phenylmethyl-(1H-indol-5-yl)carbamate (5.11 g, 25%).

reactant | 5-aminoindole | 76 mmol, 10.0 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 76 mmol, 7.67 g | C(C)N(CC)CC | C6H15N
reactant | carboxybenzyloxychloride | 75.8 mmol, 12.93 g | C(=O)(O)C(C1=CC=CC=C1)OCl | C8H7ClO3
reactant | Na2CO3 | 76 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | phenylmethyl-(1H-indol-5-yl)carbamate | 5.11 g, 25% | C1(=CC=CC=C1)COC(NC=1C=C2C=CNC2=CC1)=O | C16H14N2O2
